US07713994B2
6-Bromo-4-{[4-(4-chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione
The 4-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamine (130 mg, 0.58 mmol) and 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (120 mg, 0.43 mmol) is heated in N,N-dimethylformamide (10 mL) at 100° C. for 4 h. EtOAc (100 mL) and H2O (20 mL) is then added. The EtOAc layer is washed with H2O (3×20 mL) and brine (15 mL) and dried over MgSO4. Upon removal of EtOAc, precipitate formed and the precipitate is collected and washed with MeOH and Et2O and dried to provide the title compound (64 mg, 32%). 1H NMR (400 MHz, DMSO) δ 12.56(1H, d, J=12.4 Hz), 11.46 (1H, s), 8.98 (1H, d, J=12.4 Hz), 8.50 (1H, s), 7.43-7.94 (6H, m), 2.30 (3H, s), 2.21 (3H, s); MP: 290-291° C.; Anal. Cacl. for C21H16BrClN4O2: C, 53.47; H, 3.42; N, 11.88. Found: C, 51.49; H, 2.94; N, 11.31.

reactant | 4-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamine | 0.58 mmol, 130 mg | ClC=1C(=NN(C1C)C1=CC=C(C=C1)N)C | C11H12ClN3
reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.43 mmol, 120 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | H2O | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{[4-(4-chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 64 mg, 32% | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1N=C(C(=C1C)Cl)C | C21H16BrClN4O2
